US08202885B2
A solution of 3.66 g of [3-(4-amino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester in 40 mL of acetic anhydride was refluxed for 2 h. The excess of acetic anhydride was evaporated off and the residue was treated with 16 mL of EtOH and IM-NaOH until pH 10 then extracted with EtOAc. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. Purification by CC using EtOAc/MeOH 100/1 to 90/1 yielded 1.86 g of [3-(4-acetylamino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester as yellow foam.

reactant | [3-(4-amino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester | 3.66 g | C(C)(C)(C)OC(N(C)CCCC1=NC2=C(N1)C=CC=C2N)=O | C16H24N4O2
reactant | acetic anhydride | 40 mL | C(C)(=O)OC(C)=O | C4H6O3
product | [3-(4-acetylamino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester | 1.86 g | C(C)(C)(C)OC(N(C)CCCC1=NC2=C(N1)C=CC=C2NC(C)=O)=O | C18H26N4O3
